US05670664
Methyl 2,3-dihydroxy-3-(2-nitrophenyl)propionate (Compound IIa) was prepared by adding 250 mg of osmium tetroxide (0.984 mmol) in one portion to a 0° C. solution of 15 g of methyl trans-3-(2'-nitrophenyl)propenoate (72.4 mmol) (Compound Ia) and 12.7 g of N-methylmorpholine-N-oxide (0.108 mol) in a solution containing 25 ml each of H2O, acetone and t-butanol (1:1:1). The reaction was warmed to room temperature, then stirred for 6 hr. Then, 50 ml of a freshly prepared solution of 20% (v/v) NaHSO3 was added slowly over 30 min to destroy excess oxidant. Several scoops of NaCl were added to the resulting reaction mixture, and then the product was extracted 3 times, each with 200 ml of ether. The combined extracts were washed with 150 ml of a saturated NaCl solution (brine), dried over MgSO4, and then concentrated in vacuo. The crude product, a light brown solid, was purified by recrystallization from ethanol to give 15.3 g (87% yield) of Compound IIa. M.p. 125.6-127.6° C.

reactant | methyl trans-3-(2'-nitrophenyl)propenoate | 72.4 mmol, 15 g | [N+](=O)([O-])C1=C(C=CC=C1)/C=C/C(=O)OC | C10H9NO4
reactant | N-methylmorpholine-N-oxide | 0.108 mol, 12.7 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | H2O | 25 ml | O | H2O
reactant | NaHSO3 | OS(=O)[O-].[Na+]
catalyst | osmium tetroxide | 0.984 mmol, 250 mg | [Os](=O)(=O)(=O)=O
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 2,3-dihydroxy-3-(2-nitrophenyl)propionate | OC(C(=O)OC)C(C1=C(C=CC=C1)[N+](=O)[O-])O | C10H11NO6
